US09428461B2
7-chloro-1-[2-methyl-4-(2-methyl benzoyl amino) benzoyl]-5 oxo-2,3,4,5-tetrahydro-1H-1-benzazepine (2 gm) was suspended in methanol (48 ml) & water (12 ml) and then added sodium borohydride (0.236 gm.) at 25° C. and the reaction mixture was stirred for 1hr. To the reaction mixture was added water (12 ml) and stirred for 2 hours at 25-30° C. The solid obtained was collected by filtration and dried to give 7-chloro-5-hydroxy-1-[2-methyl-4-(2-methylbenzoylamino) benzoyl]-2,3,4,5-tetrahydro-1H-1-benzazepine (1.70 gm).

reactant | 7-chloro-1-[2-methyl-4-(2-methyl benzoyl amino) benzoyl]-5 oxo-2,3,4,5-tetrahydro-1H-1-benzazepine | 2 gm | ClC=1C=CC2=C(C(CCCN2C(C2=C(C=C(C=C2)NC(C2=C(C=CC=C2)C)=O)C)=O)=O)C1 | C26H23ClN2O3
reactant | water | 12 ml | O | H2O
reactant | sodium borohydride | 0.236 gm | [BH4-].[Na+]
reactant | water | 12 ml | O | H2O
solvent | methanol | 48 ml | CO | CH4O
product | 7-chloro-5-hydroxy-1-[2-methyl-4-(2-methylbenzoylamino) benzoyl]-2,3,4,5-tetrahydro-1H-1-benzazepine | 1.70 gm, Yield—85% | ClC=1C=CC2=C(C(CCCN2C(C2=C(C=C(C=C2)NC(C2=C(C=CC=C2)C)=O)C)=O)O)C1 | C26H25ClN2O3
